US06063799
Form I is the predominant crystal form at temperatures from about 60° C. to about 155° C. Substantially pure Form I can be obtained in a laboratory setting by refluxing 3,5-di-tert-butyl-4-hydroxybenzaldehyde with rhodanine in glacial acetic acid using fused sodium acetate as a catalyst to form 5-{[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]}-methylene-2-thioxo-4-thiazolidinone. The resultant 2-thioxo-4-thiazolidinone can then be reduced with hydrogen in the presence of palladium on carbon. The product is isolated by chromatography, and the solvent is removed to afford Form I Tazofelone. In an alternate preparation, 5-{[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]}-methylene-2-thioxo-4-thiazolidinone can be refluxed with diethyl 1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate and activated silica gel to form (±)-5-{[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]-methyl}-2-thioxo-4-thiazolidinone. The methyl-2-thioxo-4-thiazolidinone can then be reduced using hydrogen in the presence of palladium on carbon.

reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | rhodanine | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 5-{[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]}-methylene-2-thioxo-4-thiazolidinone | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1C(NC(S1=C)=S)=O | C18H25NO2S2
